US07045665B2
To a solution of 2-(4-ethylthiobenzyl)phenol (0.51 g) and 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose (2.4 g) in toluene (6.3 mL) and dichloromethane (2.7 mL) was added boron trifluoride diethyl ether complex (0.78 mL), and the mixture was stirred at room temperature for 9 hours. To the reaction mixture were added ethyl acetate (70 mL) and a saturated aqueous sodium hydrogen carbonate solution (25 mL), and the organic layer was separated. The organic layer was washed with brine (25 mL), dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was dissolved in methanol (10.5 mL), sodium methoxide (28% methanol solution, 0.08 mL) was added to the solution, and the mixture was stirred at 25° C. for 18 hours. To the reaction mixture were added ethyl acetate (75 mL) and water (20 mL), and the organic layer was separated. The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1). The solvent was removed under reduced pressure, diethyl ether was added to the residue, and the resulting precipitates were collected by filtration. The obtained colorless solid was washed with diethyl ether and dried under reduced pressure to give 2-(4-ethylthiobenzyl)phenyl β-D-glucopyranoside (0.51 g).

reactant | 2-(4-ethylthiobenzyl)phenol | 0.51 g | C(C)SC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C15H16OS
reactant | 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose | 2.4 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 6.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2.7 mL | ClCCl | CH2Cl2
product | 2-(4-ethylthiobenzyl)phenyl β-D-glucopyranoside | 0.51 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)SCC | C21H26O6S
